US06232310B1
a) N-(2-Cyanomethylsulfinyl-5-trifluoromethylphenyl)acetamide
A solution of N-(2-cyanomethylsulfanyl-5-trifluoromethylphenyl)acetamide(0.42 g) in dioxane (2.50 ml) was added dropwise to a stirred solution of sodium periodate (0.69 g) in a mixture of water (6 ml) and dioxane (1.50 ml) at ambient temperature. An additional amount of dioxane (2.50 ml) was added. The mixture was stirred at 40° C. for 6½ h, then at room temperature overnight. A precipitate was removed by filtration and washed on the filter with dichlorometane (20 ml). The two phases of the filtrate were shaken and separated. The aqueous phase was extracted with dichloromethane (2×10 ml). The combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo. The more polar component of the residue was isolated by flash chromatography on silica gel eluted with 1) ether and 2) ethyl acetate to give a slowly crystallizing oil. Trituration with petroleum ether and subsequent drying gave white crystals. Yield 0.16 g (38%); mp 149-151° C.; 1H-NMR(CDCl3) δ (ppm): 9.9 (br, 1H), 8.70 (d, J=2 Hz, 1H), 7.68-7.46 (d+dd, J=8Hz and 8 Hz/2 Hz, 1H+1H), ABX-system at 4.13 (d, J=16 Hz, 1H) and 3.98 (d, J=16 Hz, 1H), 2.25 (s, 3H); 13C-NMR (DMSO-d6) δ (ppm): 170.1, 141.3, 135.8, 132.7 (q, J=32 Hz), 127.0, 123.5 (CF3, J=273 Hz), 123.1 (J=3.6 Hz), 122.0 (J=3.6 Hz), 113.3 (C≡N), 42.6 (CH2), 23.2 (CH3); IR (KBr) ν (cm−1): 3220 (NH), 2252 (C≡N), 1691 (C═O), 1532, 1476, 1337, 1273, 1176, 1128, 1033, 888, 675.

reactant | N-(2-cyanomethylsulfanyl-5-trifluoromethylphenyl)acetamide | 0.42 g | C(#N)CSC1=C(C=C(C=C1)C(F)(F)F)NC(C)=O | C11H9F3N2OS
reactant | sodium periodate | 0.69 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | dioxane | 2.50 ml | O1CCOCC1 | C4H8O2
solvent | water | 6 ml | O | H2O
solvent | dioxane | 1.50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 2.50 ml | O1CCOCC1 | C4H8O2
product | N-(2-Cyanomethylsulfinyl-5-trifluoromethylphenyl)acetamide | C(#N)CS(=O)C1=C(C=C(C=C1)C(F)(F)F)NC(C)=O | C11H9F3N2O2S
